US06846819B1
b) N,1-Dimethyl-4-methoxy-1H-indol-2-carboxamide
A solution of methyl 4-methoxy-1-methyl-1H-indol-2-carboxylate (1.03 g, 4.7 mmole) in 2.0 M methylamine in methanol (40 mL) was sealed in a pressure bottle and heated at 55-60° C. for 60 hr. Concentration in vacuo yielded the title compound (1.05 g, quantitative) as a white solid: MS (ES) m/e 219.2 (M+H)+.

reactant | methyl 4-methoxy-1-methyl-1H-indol-2-carboxylate | 4.7 mmole, 1.03 g | COC1=C2C=C(N(C2=CC=C1)C)C(=O)OC | C12H13NO3
reactant | methylamine | 2.0 M | CN | CH5N
solvent | methanol | 40 mL | CO | CH4O
product | N,1-Dimethyl-4-methoxy-1H-indol-2-carboxamide | 1.05 g | CNC(=O)C=1N(C2=CC=CC(=C2C1)OC)C | C12H14N2O2
